US05010088
A mixture of 6-(4-hydroxypiperidino)carbostyril (0.25 g), acetic anhydride (0.4 g) and dry pyridine (4 mL) was heated at 100° C. for 3 hours. The reaction mixture was cooled and water (about 35 mL) and sodium bicarbonate (0.6 g) were added. The mixture was chilled in ice and stirred. The resulting white solid was removed by filtration, washed with water and dried to give 6-(4-acetoxypiperidino)-2(1H)-quinolinone. 1/4 hydrate (0.3 g); m.p. 245°-250° C.

reactant | 6-(4-hydroxypiperidino)carbostyril | 0.25 g | OC1CCN(CC1)C=1C=C2C=CC(NC2=CC1)=O | C14H16N2O2
reactant | acetic anhydride | 0.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | 0.6 g | C([O-])(O)=O.[Na+]
solvent | water | about 35 mL | O | H2O
product | 6-(4-acetoxypiperidino)-2(1H)-quinolinone | C(C)(=O)OC1CCN(CC1)C=1C=C2C=CC(NC2=CC1)=O | C16H18N2O3
